US07361763B2
To a suspension of 5-{5-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-pyridin-2-ol (25 mg, 0.055 mmol) in 1.5 ml of dichloromethane was added 78 mg of PS-thiophenol resin (Argonaut Technologies, 1.41 mmol·g−1), followed by TFA (0.3 ml). The clear suspension was stirred at room temperature for 1 hour, then the resin was filtered off, washed with ethyl acetate, then methanol. The filtrate was evaporated and the residue was taken up in 2 ml of ethyl acetate and saturated aqueous solution of sodium bicarbonate. The resulting precipitate was filtered off, washed with water, then ethyl acetate and dried in vacuo to afford 5-(5-(4-hydroxy-3-methoxyphenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyridin-2-ol as a light beige solid (15 mg, 80% yield). 1H NMR (DMSO-d6): δ 11.83 (broad s, 1H), 11.67 (broad s, 1H), 9.05 (s, 1H), 8.49 (d, J=2.0 Hz, 1H), 8.18 (d, J=2.0 Hz, 1H), 7.88 (dd, J=3.0, 9.5 Hz, 1H), 7.74 (d, J=2.5 Hz, 1H), 7.71 (d, J=2.0 Hz, 1H), 7.26 (d, J=2.0 Hz, 1H), 7.12 (dd, J=2.0, 8.5 Hz, 1H), 6.87 (d, J=8.0 Hz, 1H), 6.44 (d, J=9.0 Hz, 1H), 3.86 (s, 3H); HPLC/MS m/z: 334.1 [MH]+.

reactant | 5-{5-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-pyridin-2-ol | 0.055 mmol, 25 mg | COC=1C=C(C=CC1OCC1=CC=C(C=C1)OC)C=1C=C2C(=NC1)NC=C2C=2C=CC(=NC2)O | C27H23N3O4
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | TFA | 0.3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 5-(5-(4-hydroxy-3-methoxyphenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyridin-2-ol | 15 mg, 80% yield | OC1=C(C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=CC(=NC2)O)OC | C19H15N3O3
